US06759415B1
Preparation of (6S)-1-(1H-Indol-3-ylmethyl)-3-propyl-6-(4-phenyl-1H-imidazol-2-yl)-2-thioxotetrahydro-4(1H)-pyrimidinone
Propylisothiocyanate (25 μl, 1.2 eq.) is added to a solution of benzyl (3S)-3-[(1H-indol-3-ylmethyl)amino]-3-(4-phenyl-1H-imidazol-2-yl)propanoate (90 mg, 1 eq.) in 2 ml of THF. The mixture is stirred for 15 hours at a temperature of approximately 40° C. then diluted with 2 ml of THF. An aminomethylpolystyrene resin (acquired from Novabiochem, load 3.2 mmol/g, 125 mg, 2 eq.) is added. The mixture is stirred for 5 hours at a temperature of approximately 20° C. then filtered on frit. The filtrate is concentrated under reduced pressure at 40° C. 1 ml of THF and 1 ml of triethylamine are added to the residue. The mixture is stirred for 15 hours at a temperature of approximately 40° C. then concentrated under reduced pressure. Purification by flash chromatography on silica gel (eluent: ethyl acetate/heptane 8:2) yields the expected compound (72 mg, yield 82%).

reactant | Propylisothiocyanate | 25 μl, 1.2 eq. | C(CC)N=C=S | C4H7NS
reactant | benzyl (3S)-3-[(1H-indol-3-ylmethyl)amino]-3-(4-phenyl-1H-imidazol-2-yl)propanoate | 90 mg, 1 eq. | N1C=C(C2=CC=CC=C12)CN[C@@H](CC(=O)OCC1=CC=CC=C1)C=1NC=C(N1)C1=CC=CC=C1 | C28H26N4O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (6S)-1-(1H-Indol-3-ylmethyl)-3-propyl-6-(4-phenyl-1H-imidazol-2-yl)-2-thioxotetrahydro-4(1H)-pyrimidinone | 72 mg, yield 82% | N1C=C(C2=CC=CC=C12)CN1C(N(C(C[C@H]1C=1NC=C(N1)C1=CC=CC=C1)=O)CCC)=S | C25H25N5OS
